US05260331
N-(1-Methylbutyl)-4-chlorobenzenemethanamine
In a manner analogous to Example 1 a solution of N-(1-methylbutyl)-4-chlorobenzamide (2.26 g; 0.01 mol) in dry THF (25 ml) was reacted with an ice-cooled solution of 1.0 M.B2H6 -THF complex (45 ml; 0.045 mol) under a nitrogen blanket to give the title compound as an oil.

reactant | N-(1-methylbutyl)-4-chlorobenzamide | 0.01 mol, 2.26 g | CC(CCC)NC(C1=CC=C(C=C1)Cl)=O | C12H16ClNO
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | N-(1-Methylbutyl)-4-chlorobenzenemethanamine | CC(CCC)NCC1=CC=C(C=C1)Cl | C12H18ClN
